US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-[3-({[(methylamino)carbonyl]amino}methyl)-1,2,4-oxadiazol-5-yl]hexanoate
A solution of tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (148 mg, 0.42 mmol) in MeCN (10 ml) was treated with N,N-disuccinimidyl carbonate (130 mg, 0.51 mmol) and stirred at room temperature, under a nitrogen atmosphere for 4 hours. The solvent was removed under reduced pressure. The oil was dissolved in THF (5 ml) and treated with MeNH2 (2.0 M in THF) (1.0 ml) forming a white precipitate. The reaction mixture was stirred at room temperature for 2 days and filtered. The solvent was removed under reduced pressure. The oil was purified on a silica column eluting with a solvent gradient of DCM:MeOH (95:5) gradually changing to (90:10) to afford the title compound as a colourless oil (134 mg, 78%).

reactant | tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.42 mmol, 148 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | N,N-disuccinimidyl carbonate | 0.51 mmol, 130 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
solvent | MeCN | 10 ml | CC#N | C2H3N
product | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(methylamino)carbonyl]amino}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 134 mg, 78% | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNC(=O)NC | C21H36N4O4
